US09079930B2
To a mixture of (4-bromophenyl)(4-methoxyphenyl)methylamine, 1-1-c, (2 g, 6.8 mmol) in acetonitrile (25 ml) was added BOC2O (1.5 equivalents) and stirred at room temperature for 24 h. The reaction mixture was evaporated to dryness and purified over silica gel (5% MeOH/DCM) to give N-Boc-(4-bromophenyl)(4-methoxyphenyl)methylamine.

reactant | (4-bromophenyl)(4-methoxyphenyl)methylamine | BrC1=CC=C(C=C1)NCC1=CC=C(C=C1)OC | C14H14BrNO
reactant | BOC2O | 1.5 equivalents | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-Boc-(4-bromophenyl)(4-methoxyphenyl)methylamine | C(=O)(OC(C)(C)C)N(CC1=CC=C(C=C1)OC)C1=CC=C(C=C1)Br | C19H22BrNO3
